US04303655
To dimethylformamide (2.24 g.) was dropwise added phosphorus oxychloride (2.36 g.) over 10 minutes under stirring and ice-cooling, and the mixture was stirred for 30 minutes at 40° C. To the mixture was added ethyl acetate (40 ml.), and the mixture was cooled at -20° to -15° C. with stirring. To the mixture was added 2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylic acid, which can be represented as 2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylic acid, (4.0 g.) and the mixture was stirred for 30 minutes at the same temperature. Thus obtained mixture was added to the solution, which was prepared by stirring the mixture of bis(trimethylsilyl)acetamide (15 ml.) and 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-amino-3-cephem-4-carboxylic acid (6.35 g.) in ethyl acetate (50 ml.) at room temperature for 10 minutes, by adding dimethylformamide (6 ml.) thereto and then cooling to -40° C. The solution was stirred for 30 minutes at -40° C. and for 30 minutes at -20° C., and then the reaction mixture was poured into 5% sodium bicarbonate aqueous solution. The aqueous layer was separated from the mixture, washed with ethyl acetate, and the precipitates were filterred. The precipitates were washed with a mixture of acetone and water, and the washings were extracted with ethyl acetate, and then the extract was washed with sodium chloride aqueous solution and water in turn. On the other hand, to the aqueous filtrate was added ethyl acetate, and the mixture was adjusted to pH 1 to 2. The ethyl acetate layer was separated from the mixture and combined with the above obtained ethyl acetate extract together. The combined ethyl acetate layer was washed with water, dried over magnesium sulfate and then treated with activated charcoal. After distillation of the solvent from the ethyl acetate layer, the remaining residue was pulverized in diethyl ether, collected by filtration and then dried to give yellowish brown powder of 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylamino-1,3-thiazol- 4-yl)glyoxylamido]-3-cephem-4-carboxylic acid which can be represented as 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, (3.2 g.).

reactant | phosphorus oxychloride | 2.36 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylic acid | C(C)(C)(CC)OC(=O)NC=1SC=C(N1)C(C(=O)O)=O | C11H14N2O5S
reactant | 2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylic acid | C(C)(C)(CC)OC(=O)N=C1SC=C(N1)C(C(=O)O)=O | C11H14N2O5S
reactant | bis(trimethylsilyl)acetamide | 15 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-amino-3-cephem-4-carboxylic acid | 6.35 g | S1C(=NN=C1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C10H10N4O3S3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2.24 g | CN(C=O)C | C3H7NO
product | 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylamino-1,3-thiazol- 4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | S1C(=NN=C1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2N=C(SC2)NC(=O)OC(C)(C)CC)=O)=O | C21H22N6O7S4
